US09381503B2
Synthesis of Pyridylphenylphosphine
A solution of Cl2PPh (30 mL, 220 mmol) in Et2O (800 mL) in a 1 L Schlenk flask was cooled to −78° C. and a solution of HNEt2 (46 mL, 440 mmol) added through a dropping funnel over 30 min with stirring. The solution was allowed to rise to room temperature and stood overnight. The resulting yellow solution was cannula transferred into a clean Schlenk flask and the solvent removed under vacuum. To the solid residue was added ether (500 ml) and the mixture rapidly stirred for 1 hour and then stood overnight. The ether extracts were then combined and the dried under vacuum. This gave pale oil. The yellow oil was then dissolved in ether (500 ml) and a solution of LiPy {prepared by adding BrPy (21 mL, 220 mmol) to a solution of BuLi (88 mL of a 2.5 M solution in hexane) in Et2O (100 mL) dropwise over 30 min at −78° C., the solution was then stirred for 1 h} was added via a cannula over 30 min. The solution was allowed to reach room temperature and was then stirred overnight. This gave a pale brown suspension. HCl (110 mL of a 2 M solution in Et2O) was added over 20 mins with vigorous stirring, generating a large quantity of pale brown precipitate. Further HCl (110 mL of a 2 M solution in Et2O) was added. The suspension was then allowed to stand and the yellow solution cannula transferred into a clean Schlenk flask. The brown precipitate was washed again with THF (500 mL) and the washings combined before removing the THF under vacuum leaving a red/orange solid. The solid was then dissolved in THF (300 mL) then added to an ice cooled solution of magnesium powder (9 g) in THF (100 mL) over 30 mins with stirring. The solution was kept under ice cooling for a further 30 min, then allowed to rise to room temperature and stirring overnight. The solution was filtered to remove excess magnesium and quenched with water (100 mL, degassed with nitrogen gas for 20 minutes). The organic layer was then cannula transferred into a clean Schlenk flask and then dried under vacuum to give viscous orange oil, yield=15.1 g, 36%. 31P NMR (121 MHz, CDCl3) ä: −37.79 (d, JPH=222 Hz).

reactant | Cl2PPh | 220 mmol, 30 mL | P(Cl)(Cl)C1=CC=CC=C1 | C6H5Cl2P
reactant | HNEt2 | 440 mmol, 46 mL | N(CC)CC | C4H11N
reactant | BuLi | [Li]CCCC
reactant | HCl | Cl | ClH
reactant | magnesium | 9 g | [Mg] | Mg
solvent | Et2O | 800 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Pyridylphenylphosphine | N1=C(C=CC=C1)PC1=CC=CC=C1 | C11H10NP
